US06329550B1
19.2 Synthesis of N,N′-di-(3,4-dichlorophenethyl)-2-(2-mercapto-3-phenylpropionylamino)malonamide
Prepare by the method of Example 15.2 using N,N′-di-(3,4-dichlorophenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide (0.166 g, 0.222 mmol). Coevaporation with carbon tetrachloride gives the title compound.

reactant | N,N′-di-(3,4-dichlorophenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide | 0.222 mmol, 0.166 g | ClC=1C=C(CCNC(C(C(=O)NCCC2=CC(=C(C=C2)Cl)Cl)NC([C@H](CC2=CC=CC=C2)SCC2=CC=C(C=C2)OC)=O)=O)C=CC1Cl | C36H35Cl4N3O4S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N,N′-di-(3,4-dichlorophenethyl)-2-(2-mercapto-3-phenylpropionylamino)malonamide | ClC=1C=C(CCNC(C(C(=O)NCCC2=CC(=C(C=C2)Cl)Cl)NC(C(CC2=CC=CC=C2)S)=O)=O)C=CC1Cl | C28H27Cl4N3O3S
